US09212190B2
A 25-mL round-bottom flask containing a solution of tert-butyl N-(4-[[(3R)-3-[2-iodo-2-(1,3-oxazol-2-yl)ethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (150 mg, 0.24 mmol, 1.00 equiv) in a mixed methanol (5 mL) and tetrahydrofuran (5 mL) was added NaBH4 (40 mg, 1.08 mmol, 4.50 equiv) at 0° C. The resulting solution was stirred for 4 h at 0° C. and concentrated under reduced pressure. The residue was diluted with EtOAc and washed with brine, dried over sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:10 to 1:22) to afford the desired tert-butyl N-methyl-N-(4-[[(3S)-3-[2-(1,3-oxazol-2-yl)ethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate (110 mg, 92%) as a yellow solid. MS (ES, m/z): 499 (M+H)+.

reactant | tert-butyl N-(4-[[(3R)-3-[2-iodo-2-(1,3-oxazol-2-yl)ethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 0.24 mmol, 150 mg, 1.00 equiv | IC(C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C)C=1OC=CN1 | C26H33IN4O4S
reactant | methanol | 5 mL | CO | CH4O
reactant | NaBH4 | 1.08 mmol, 40 mg, 4.50 equiv | [BH4-].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | tert-butyl N-methyl-N-(4-[[(3S)-3-[2-(1,3-oxazol-2-yl)ethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate | 110 mg, 92% | CN(C(OC(C)(C)C)=O)C1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CCC=1OC=CN1 | C26H34N4O4S
